US03932416
4(2-Dimethylaminoethylamino)-N(1H-tetrazol-5-yl)quinaldamide, dihydrochloride
4-Chloro-N(1H-tetrazol-5-yl)quinaldamide (0.3 g), N,N-dimethylethylenediamine (6 ml) and water (2 ml) were heated at 100° for 8 hours. The excess of N,N-dimethylethylenediamine was distilled off under reduced pressure and the residue was treated with aqueous hydrochloric acid to pH 1. The solid, in water (5 ml), was treated with 2N sodium hydroxide to give a solution pH 4. The solid which crystallised from this solution was collected and dried, m.p. 200° (d).

reactant | 4-Chloro-N(1H-tetrazol-5-yl)quinaldamide | 0.3 g | ClC1=CC(C(=O)NC2=NN=NN2)=NC2=CC=CC=C12 | C11H7ClN6O
reactant | N,N-dimethylethylenediamine | 6 ml | CN(CCN)C | C4H12N2
solvent | water | 2 ml | O | H2O
product | 4(2-Dimethylaminoethylamino)-N(1H-tetrazol-5-yl)quinaldamide, dihydrochloride | pH 4 | Cl.Cl.CN(CCNC1=CC(C(=O)NC2=NN=NN2)=NC2=CC=CC=C12)C | InChI=1S/C15H18N8O.2ClH/c1-23(2)8-7-16-12-9-13(14(24)18-15-19-21-22-20-15)17-11-6-4-3-5-10(11)12;;/h3-6,9H,7-8H2,1-2H3,(H,16,17)(H2,18,19,20,21,22,24);2*1H
